US07541474B2
Synthesis of 4-(5-methyl-4-oxo-2-((S)-1-(2-(trifluoromethyl)phenyl)ethylamino)-4,5-dihydrothiazol-5-yl)benzonitrile (2a)
To a mixture of 5-methyl-2-((S)-1-(2-(trifluoromethyl)phenyl)ethylamino)thiazol-4(5H)-one (0.2000 g, 0.662 mmol), 4-bromobenzonitrile (0.301 g, 1.65 mmol), Pd2(dba)3 (0.0303 g, 0.0331 mmol), (S)-2-(diphenylphosphino)-1-(2-(diphenylphosphino)-naphthalen-1-yl)naphthalene (0.0618 g, 0.0992 mmol), and LiN(TMS)2 (0.277 g, 1.65 mmol) was added toluene (8 mL) in a glove box. The mixture was gradually heated to 95° C. and stirred overnight. The reaction was quenched with NH4Cl (5 mL), and the reaction mixture was extracted three times with ethylacetate (30 mL). The organic phase was dried over Na2SO4, filtered and concentrated under vacuum. The crude was purified by chromatography on silica gel using 22% ethylacetate/hexane to remove the impurities and then 36% ethylacetate/hexane to obtain the product as a light yellow solid. MS (ESI, pos. ion) m/z: 404 (M+1), 402 (M-1). 1H NMR (CDCl3, 400 MHz): δ1.71-1.78 (m, 3H), 1.98-2.09 (m, 3H), 5.05 (q, J=8 Hz, 1H), 7.39-7.68 (m, 7H), 7.84 (d, J=8 Hz, 1H), 10.97 (s, 1H). % de (by 1H NMR): 48%.

reactant | 5-methyl-2-((S)-1-(2-(trifluoromethyl)phenyl)ethylamino)thiazol-4(5H)-one | 0.662 mmol, 0.2000 g | CC1C(N=C(S1)N[C@@H](C)C1=C(C=CC=C1)C(F)(F)F)=O | C13H13F3N2OS
reactant | 4-bromobenzonitrile | 1.65 mmol, 0.301 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | LiN(TMS)2 | 1.65 mmol, 0.277 g | [Li]N([Si](C)(C)C)[Si](C)(C)C
catalyst | Pd2(dba)3 | 0.0331 mmol, 0.0303 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(5-methyl-4-oxo-2-((S)-1-(2-(trifluoromethyl)phenyl)ethylamino)-4,5-dihydrothiazol-5-yl)benzonitrile | CC1(C(N=C(S1)N[C@@H](C)C1=C(C=CC=C1)C(F)(F)F)=O)C1=CC=C(C#N)C=C1 | C20H16F3N3OS
